US04471116
A solution of (S)-1-(4-benzyloxyphenoxy)-3-(1-methylethyl)amino-2-propanol (53.4 g) in 500 ml methanol was hydrogenated over 5 g 10% palladium on carbon (room temperature; 1 atmosphere). Within 40 minutes the uptake of nitrogen stopped abruptly after the absorption of 4,300 ml. The mixture was filtered through Celite and the filtrate was concentrated to dryness under reduced pressure. The resulting colorless solid residue was crystallized from acetone to give 35.2 g of (S)-1-(4-hydroxyphenoxy)-3-(1-methylethyl)amino-2-propanol, mp 127°-129°; [α]D25 -20.67° (c, 1.0, 0.1N hydrochloric acid).

reactant | (S)-1-(4-benzyloxyphenoxy)-3-(1-methylethyl)amino-2-propanol | 53.4 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNC(C)C)O)C=C1 | C19H25NO3
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | (S)-1-(4-hydroxyphenoxy)-3-(1-methylethyl)amino-2-propanol | 35.2 g | OC1=CC=C(OC[C@H](CNC(C)C)O)C=C1 | C12H19NO3
